US04785019
Preparation of N-Cyanomethyl-N-trichloromethylthio-2-chlorobenzamide
To a stirred mixture of 5.0 g (0.026 mole) N-Cyanomethyl-2-chlorobenzamide (the product of Example 8) and 5.3 g (0.029 mole) trichloromethylsulfenyl chloride in 125 ml methylene chloride, 3.2 g (0.032 mole) triethylamine in 25 ml methylene chloride were dropped in over 35 minutes. The reaction mixture was stirred about 25 minutes. The reaction mixture was washed three times with 75 ml water, dried over magnesium sulfate and stripped to give a brown oil. Hexane (25 ml) was added to the oil which crystallized when cooled in an ice bath.

reactant | N-Cyanomethyl-2-chlorobenzamide | 0.026 mole, 5.0 g | C(#N)CNC(C1=C(C=CC=C1)Cl)=O | C9H7ClN2O
reactant | trichloromethylsulfenyl chloride | 0.029 mole, 5.3 g | ClC(SCl)(Cl)Cl | CCl4S
reactant | triethylamine | 0.032 mole, 3.2 g | C(C)N(CC)CC | C6H15N
reactant | Hexane | 25 ml | CCCCCC | C6H14
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-Cyanomethyl-N-trichloromethylthio-2-chlorobenzamide | C(#N)CN(C(C1=C(C=CC=C1)Cl)=O)SC(Cl)(Cl)Cl | C10H6Cl4N2OS
